US07915424B2
2-Fluoro-5-(5-methoxypyridin-3-ylethynyl)-N-methylbenzamide
Add bis(triphenylphosphine)palladium (II) dichloride (64 mg, 0.091 mmol), copper (I) iodide (35 mg, 0.19 mmol), and 3-ethynyl-5-methoxypyridine, (prepared as described in PREPARATION 10), (250 mg, 1.9 mmol) to a solution of 2-fluoro-5-iodo-N-methylbenzamide, (prepared as described in PREPARATION 39), (0.63 g, 2.3 mmol) in triethylamine (3.8 mL, 27.3 mmol) and heat at 60° C. for 16 h. Cool to room temperature and concentrate. Purify by silica gel chromatography, eluting with 100:0 to 10:90 dichloromethane:ethyl acetate, followed by a second silica gel chromatography eluting with 50:50 to 75:25 ethyl acetate:hexanes, to give the title compound as a white solid (390 mg, 73%).

reactant | 3-ethynyl-5-methoxypyridine | 1.9 mmol, 250 mg | C(#C)C=1C=NC=C(C1)OC | C8H7NO
reactant | 2-fluoro-5-iodo-N-methylbenzamide | 2.3 mmol, 0.63 g | FC1=C(C(=O)NC)C=C(C=C1)I | C8H7FINO
reactant | triethylamine | 27.3 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium | 0.091 mmol, 64 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.19 mmol, 35 mg | [Cu]I
product | 2-Fluoro-5-(5-methoxypyridin-3-ylethynyl)-N-methylbenzamide | 390 mg, 73% | FC1=C(C(=O)NC)C=C(C=C1)C#CC=1C=NC=C(C1)OC | C16H13FN2O2
